US08383619B2
A mixture of methyl 4-benzyloxy-2-hydroxy-5-isopropylbenzoate (900 mg, 3.0 mmol) and anhydrous potassium carbonate (994 mg, 7.2 mmol) in acetonitrile (20 ml) was treated with chloromethyl methyl ether (0.24 ml, 6.6 mmol) and the mixture was stirred and held at 50° C. for 24 hours whereupon further anhydrous potassium carbonate (994 mg, 7.2 mmol) and chloromethyl methyl ether (0.96 ml, 26.4 mmol) were added and the mixture was stirred and held at 50° C. for a further 4 days. Upon cooling to room temperature the solvent was removed in vacuo and the residue treated with water (30 ml). The organic material was extracted with dichloromethane (2×20 ml) and the combined organic extracts were evaporated in vacuo to afford crude methyl 4-benzyloxy-5-isopropyl-2-(methoxymethyloxy)benzoate as a pale yellow oil that was used in the next step without further purification. 1H NMR (DMSO-d6) 7.57 (1H, s), 7.48 (2H, d), 7.44 (2H, t), 7.38 (1H, t), 6.90 (1H, s), 5.23 (4H, s), 3.78 (3H, s), 3.39 (3H, s), 3.21 (1H, m), 1.17 (6H, d). MS: [M+Na]+ 367.

reactant | methyl 4-benzyloxy-2-hydroxy-5-isopropylbenzoate | 3.0 mmol, 900 mg | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1C(C)C)O | C18H20O4
reactant | potassium carbonate | 7.2 mmol, 994 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 6.6 mmol, 0.24 ml | COCCl | C2H5ClO
reactant | potassium carbonate | 7.2 mmol, 994 mg | C([O-])([O-])=O.[K+].[K+]
reactant | chloromethyl methyl ether | 26.4 mmol, 0.96 ml | COCCl | C2H5ClO
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | methyl 4-benzyloxy-5-isopropyl-2-(methoxymethyloxy)benzoate | C(C1=CC=CC=C1)OC1=CC(=C(C(=O)OC)C=C1C(C)C)OCOC | C20H24O5
